US09029370B2
Step a) (R)-2-{2-Fluoro-4-[(2-trifluoromethyl-pyridine-4-carbonyl)-amino]-phenyl}-morpholine-4-carboxylic acid tert-butyl ester
Under N2, 2-(trifluoromethyl)-4-pyridinecarboxylic acid (CAS 131747-41-6) (64.4 mg, 337 μmol, Eq: 1.00) was dissolved in CH2Cl2 (1 ml). 1-chloro-N,N2-trimethypropenylamine (51.8 mg, 51.3 μl, 388 μmol, Eq: 1.15) was added dropwise. After 30 minutes at RT, a solution contained (R)-2-(4-Amino-2-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (100 mg, 337 μmol, Eq: 1.00) and ethyldiisopropylamine (109 mg, 140 μl, 842 μmol, Eq: 2.5) in DMF (1.00 ml) was added. The RM was stirred at RT over 1 hour. Control with TLC: the reaction was finished. The RM was extracted with EtOAc and 1M citric acid solution; the organic phase was dried over MgSO4; filtered; concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 10 g, 10% to 50% EtOAc in heptane) leading to 149 mg (82%) of a white foam. MS (EIC): 468.1 ([M−H]−)

reactant | 2-(trifluoromethyl)-4-pyridinecarboxylic acid | 337 μmol, 64.4 mg | FC(C1=NC=CC(=C1)C(=O)O)(F)F | C7H4F3NO2
reactant | (R)-2-(4-Amino-2-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 337 μmol, 100 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C1=C(C=C(C=C1)N)F | C15H21FN2O3
reactant | ethyldiisopropylamine | 842 μmol, 140 μl, 109 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 1.00 ml | CN(C)C=O | C3H7NO
product | (R)-2-{2-Fluoro-4-[(2-trifluoromethyl-pyridine-4-carbonyl)-amino]-phenyl}-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)C(F)(F)F)F | C22H23F4N3O4
